US07220854B1
5-Bromo-2′-deoxyuridine-5′-phosphate was prepared as follows: 2′-Deoxyuridine-5′-phosphate (6.2 g) was suspended in a mixture of 60 ml pyridine and 30 ml acetic acid. Bromine (0.84 ml) was added with stirring in an ice water bath and stirring continued for 20 hours at room temperature. The solution was concentrated by vacuum. After redissolution in a minimum of water a crude product was precipitated by addition of ethanol. The crude product was chromatographed on Dowex 50 (H+) and eluted with water. The free acid product was precipitated from the concentrated eluent by addition of ethanol.

reactant | 2′-Deoxyuridine-5′-phosphate | 6.2 g | P(=O)(O)(O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C9H13N2O8P
reactant | Bromine | 0.84 ml | BrBr | Br2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-2′-deoxyuridine-5′-phosphate | P(=O)(O)(O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)Br)O | C9H12BrN2O8P
